US04947881
For example, to prepare 1,3-dichloro-1,1,2,2,3-pentafluoropropane, 2,2,3,3-tetrafluoropropanol, tosyl chloride, and water are reacted together to form 2,2,3,3-tetrafluoropropyl p-toluenesulfonate. Then, N-methylpyrrolidone, potassium fluoride, and the 2,2,3,3-tetrafluoropropyl p-toluenesulfonate are reacted together to form 1,1,2,2,3-pentafluoropropane. Then, chlorine and the 1,1,2,2,3-pentafluoropropane are reacted to form 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane. Finally, isopropanol and the 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane are reacted to form 1,3-dichloro-1,1,2,2,3-pentafluoropropane.

reactant | 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane | ClC(C(C(F)(F)Cl)(F)F)(F)Cl | C3Cl3F5
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1,3-dichloro-1,1,2,2,3-pentafluoropropane | ClC(C(C(F)Cl)(F)F)(F)F | C3HCl2F5
